2174-09-08 10:15:00 Physician Attending Progress Note
Chief Complaint: GIB
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   85M with h/o HTN, HL, CHF, CRI, COPD, and recently dx'd Fe deficiency
   anemia, admitted with GIB,  melena for 3days.
   Fatigued for 1 week, LE weakness, leg cramps (at least) - but worse
   recently.  Previously independent, walking, until past 3 days.  Stools
   "dark," last BM yesterday morning.  Endorses anorexia, abdominal pain
   (lower, radiating to back), N, no vomiting, no objective fevers.  Of
   note, has been taking motrin for adbominal pain (but started taking
   after noting dark stools).  Chronic DOE, no major change.  No
   dizziness.  In ED, T 98.7, P 89, 114/24, RR 15, 96% on RA.  Hct 15.9
   (baseline 35 as of [**Month (only) 230**]).  Received 2L NS, then PRBCs (2 units).  Got
   2mg morphine for belly pain; CT abd/pelvis normal.  Cr elevated to 5.3
   (baseline 2.6).  NG lavage negative.  Arrived to ICU, HD stable,
   complaining of abdominal pain and LE extremity pain.
   24 Hour Events:
 EKG - At [**2174-9-7**] 09:30 PM
   T max 97.5, 117-140/39-93, HR 66-89 (current 53), RR 21-24, 100% on 2L
   Fluid balance: 3.4L +
   Notable labs upon arrival to floor CK:  1605, MB 25, index 1.6, Tnt
   0.45, normal B12, normal folate, low ferritin.  U/A negative.  TSH >
   100
   Repeat CBC to 21.5 after 2 U (corrected from 15.9).  After 3rd unit
   [**Unit Number **].6
   Repeat cardiac enzymes: CK 2419, CKMB 35, index 1.4, TnT 0.38
   EKG with more impressive ST depressions V3-V6
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2174-9-7**] 10:30 PM
   Morphine Sulfate - [**2174-9-8**] 12:15 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   See residents note:
   HTN
   HL
   CAD
   CHF
   CRI
   COPD
   Fe deficiency anemia (colonoscopy status NK - not in [**Hospital1 **] system)
   Social hx:  [**Location 2951**], lives with daughter, no [**Name (NI) 8014**].  Quit tobacco
   several years ago.  No ETOH.
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2174-9-8**] 09:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 35.9
C (96.6
   HR: 55 (55 - 89) bpm
   BP: 121/47(65) {104/39(61) - 140/93(98)} mmHg
   RR: 19 (19 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 79 kg (admission): 78.3 kg
   Height: 66 Inch
           Total In:
                                                                  2,745 mL
                                                                    889 mL
   PO:
           TF:
   IVF:
                                                                     45 mL
                                                                    189 mL
   Blood products:
   700 mL
   Total out:
                                                                    350 mL
                                                                    920 mL
   Urine:
                                                                    350 mL
                                                                    920 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,395 mL
                                                                    -31 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///19/
   Physical Examination
   Cardiovascular: Distant HS, 2/6 systolic M
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Abdominal: Soft, obese, NABS
   Extremities: Warm, no edema
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.4 g/dL
   289 K/uL
   124 mg/dL
   4.8 mg/dL
   19 mEq/L
   4.4 mEq/L
   137 mg/dL
   102 mEq/L
   138 mEq/L
   24.6 %
   10.3 K/uL
        [image002.jpg]
                             [**2174-9-7**]  10:20 PM
                             [**2174-9-8**]  03:00 AM
   WBC
   9.2
   10.3
   Hct
   21.5
   24.6
   Plt
   287
   289
   Cr
   4.8
   TropT
   0.38
   Glucose
   124
   Other labs: CK / CKMB / Troponin-T:2419/35/0.38, Ca++:6.9 mg/dL,
   Mg++:2.1 mg/dL, PO4:7.8 mg/dL
   Fluid analysis / Other labs: TSH > 100
   Imaging: CT abdomen pelvis: cardiomegaly, atelectatic changes, liver
   small, gallstones, atherosclerotic calcification on renal vessels, mild
   ectasia of renal-Abd-Ao. No free air, acute pathology.  Degenerative
   changes in vertebrae.
   CXR: small l effusion, CM
   ECG: ecgs reviewed
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 .H/O RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC
   KIDNEY DISEASE)
 .H/O CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS,
   EMPHYSEMA) WITHOUT ACUTE EXACERBATION
 .H/O HEART FAILURE (CHF), SYSTOLIC, CHRONIC
 .H/O HEART DISEASE, OTHER
   ischemic
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
   Melena
   85M with h/o HTN, HL, CHF, CRI, COPD, and recently dx'd Fe deficiency
   anemia, admitted with GIB, acute on CRI, and elevated CXCks with severe
   hypothyroidism
   #GIB
likely upper given melena though proximal lower bleed is possible.
   Appears chronic given hemodynamic tolerance.  [**Month (only) 11**] be related in paert
   to his severe hypothyroidism.  Concern for PUID gastritis, no obvious
   mass seen on CTA.  Keep t and cross, serial h/h Q 6, transfuse to goal
   > 25 or with active bleeding.  GI to scope Egd and colon (tomorrow) or
   if change in status.  Hold asa.  Has large bore IV access 18 gage PIVs
   PPI.
   # Hypothyroidism
severe, will need IV levothyroi, without classic exam
   for myxedema though difficult to assess MS fully given langauge
   barrier. Endo consult to assist with replacement
   # Elevated trop
trending down.  possibly component of demand ischemia
   in setting of anemia, though more likely related to renal failure and
   myositis in setting of hypothyroidism, trend ecg and ces.  Holding
   statin given CKs, cont low dose BB
   #elevated cpk
in setting of renal failure, c/w rhabdo, likely from
   thyroid ds vs possibly statin related.  Received prbcs.  Will give
   fluids/bicarb with lasix as needed given known d chf.  Montior cpks.
   Acute on CRI
multifactorial
no rub on exam, MS appropriate, likely
   prerenal component in setting of anemia, rhabdo, atn.  U/a, urine
   lytes, urine myogolbin. Trending down suggesting prerenal component.
   Will hold lisinpril and follow.
   D chf
without evidence of volume overload by exam, oxygenating well.
   Montior resp status closleyl in setting of transfuuons and hydration.
   #AGMA
liekly from uremia,check lactate
   Addiitonal per Housestaff
   ICU Care
   Nutrition: Npo pending stable hcts then consider transitioning to
   clears.
   Glycemic Control:  Blood sugar well controlled
   Lines:
   18 Gauge - [**2174-9-7**] 08:53 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU for now, probable fllor transfer if hcts stable.
   Total time spent: 45 minutes
   Patient is critically ill

2174-09-09 07:44:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - GI performed EGD to look for source of bleed: deep ulceration found
   in the stomach
   - GI and surgery consulted.  KUB ordered - no evidence of free
   subdiaphragmatic air on this chest examination
   - Flagyl and Cipro were started bc of concern for perf
   patient in semi-upright position. Stomach moderately gas filled.  [**Doctor First Name 3**]
   recs: no intervention
   - Endocrine recs: stop statin, evaluate GI source of bleeding, IV T4 at
   100mcg/day.  Once taking PO, can change to oral thyroid hormone.
   - Hct stabilized: 29.1
   - CE stabilized
   - CVL line placed
   - Cards: TTE ordered
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2174-9-8**] 11:00 PM
   Metronidazole - [**2174-9-9**] 12:00 AM
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2174-9-9**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.4
C (97.5
   HR: 69 (54 - 79) bpm
   BP: 126/54(70) {104/26(45) - 152/87(96)} mmHg
   RR: 24 (18 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 79 kg (admission): 78.3 kg
   Height: 66 Inch
    Bladder pressure: 10 (10 - 10) mmHg
   Total In:
                                                                  1,735 mL
                                                                    951 mL
   PO:
   TF:
   IVF:
                                                                    760 mL
                                                                    951 mL
   Blood products:
                                                                    975 mL
   Total out:
                                                                  1,425 mL
                                                                    552 mL
   Urine:
                                                                  1,425 mL
                                                                    552 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    310 mL
                                                                    399 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///21/
   Physical Examination
   General: Alert, oriented, no acute distress
   Neck: supple, no JVD appreciated, no LAD
   Lungs: good air movement, crackles at bilat bases L>R, no wheezes
   CV: distant heart sounds, RRR, 2/6 systolic murmur with no radiation
   Abdomen:  soft, obese, non-distended, nontender, no rebound tenderness
   or guarding
   Ext: warm, well perfused, no clubbing, cyanosis or edema
   Labs / Radiology
   245 K/uL
   9.3 g/dL
   105 mg/dL
   4.9 mg/dL
   21 mEq/L
   4.0 mEq/L
   134 mg/dL
   104 mEq/L
   140 mEq/L
   28.2 %
   5.5 K/uL
        [image002.jpg]
                             [**2174-9-7**]  10:20 PM
                             [**2174-9-8**]  03:00 AM
                             [**2174-9-8**]  10:04 AM
                             [**2174-9-8**]  01:06 PM
                             [**2174-9-8**]  10:03 PM
                             [**2174-9-9**]  04:25 AM
   WBC
   9.2
   10.3
   5.5
   Hct
   21.5
   24.6
   27.8
   27.4
   29.1
   28.2
   Plt
   287
   289
   245
   Cr
   4.8
   4.9
   TropT
   0.38
   0.35
   0.39
   Glucose
   124
   105
   Other labs: Ca++:6.4 mg/dL, Mg++:1.9 mg/dL, PO4:6.6 mg/dL, Type:Mix
   freeCa:0.91
   Lactate:0.7
   pH:7.27
   TSH>100
   CK: 2128
   MB: 29
   MBI: 1.4
   Trop-T: 0.39
   Free-T4:0.17
   Other Blood Chemistry:
   T4: 1.1
   T3: 46
   Anti-Tg: Pnd
   antiTPO: Pnd
                          T4, FREE, DIRECT DIALYSIS
   Results Pending
   UA: myoglobin PND
   Urine cx pending
   [**9-8**] EGD: Possible deep ulcer adjacent to the pylorus. No bleeding was
   seen but the floor of the ulcer appeared abnormal and there was concern
   for perforation. Given this, and poor overall patient tolerance of the
   procedure, the procedure was aborted prior to evaluation of the
   duodenum. Recommend abdominal films and surgical evaluation.
   Stat KUB
   Surgery consult
   F/u Hct
   [**9-8**] KUB: prelim no free air
   Assessment and Plan
   A/P: Pt is a 85 yo M with MMP now with acute anemia likely due to upper
   GI bleed, acute on chronic renal failure and rhabdo in the setting of a
   newly diagnosed hypothyroidism.
   #. Upper GI bleed: diff is broad, but likely PUD (duodenal given worse
   with food). Stable, requiring no transfusions.
   - appreciate GI recs -> continue PPI drip, f/u with GI in terms of
   scopes.  GI reviewed initial CT which reveals a deep ulcer, no
   diverticulum; states no further imaging needed.  Recommends further
   stay in ICU due to high risk of perforation.
   - continue IV PPI drip
   - check daily Hct
   - monitor for active bleeding
   - 2 large bore PIVs
   - received total of 4U pRBCs, responded appropriately, no more
   transfusions for now
   - keep NPO for now (switch to all IV meds)
   - d/c antibiotics
   - serial belly exams
   - H.Pylori test
   - follow GI recs
   #. Bilat leg pain/ Elev CK: likely rhabdo [**2-7**] hypothyroidism. CK is
   still elevated, but slowly trending down.
   - TSH was >100, continue IV 100 levothyroxine (can switch to 125 PO
   when ready for PO)
   - f/u with endocrine recs
   - cautious hydration with IVF (NS) maintenance
   - consider continuing Bicarb
   - monitor volume status with hydration bc of h/o CHF (Lasix PRN)
   - Morphine PRN for pain
   #.  Acute on chronic renal failure: likely [**2-7**] rhabdo, also prerenal
   component
   - IVF
   - FeUrea <35 indicates prerenal component
   - hold home lisinopril
   - contact home nephrologist who follows his renal failure for possible
   future dialysis
   - renal c/s
   - renal u/s
   #. Elev trop: TnT trending down. Diff incl ACS but likely demand
   ischemia in setting of ARF and rhabdo. Levels are stable.
   - f/u EKG (last night showed no acute changes)
   - on BB, holding ASA bc of bleed, holding statin bc of elev CK
   #. Metabolic acidosis: likely due to uremia, perhaps component of
   lactic acidosis
   - check lactate levels
   - hydration with IVF
   #. Chronic diastolic dysfunction:
   - give Lasix PRN with IVF
   - continue BB
   #. COPD: stable
   - restart Combivent
   - continue Flovent
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2174-9-7**] 08:53 PM
   Multi Lumen - [**2174-9-8**] 11:00 PM
   Prophylaxis:
   DVT: pneumoboots (pt is refusing)
   Stress ulcer: PPI gtt
   VAP:
   Comments:
   Communication:  Daughter
   [**Name (NI) 129**] status: Full code
   Disposition: ICU status for high risk of ulcer perforation

2174-09-09 12:55:00 Physician Attending Progress Note
Chief Complaint: blood loss anemia, acute on CRI
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   85M HTN, HL, CHF, CRI, COPD, and Fe deficiency anemia, admitted with
   GIB, acute on CRI, found also to have elevated CPKS and severe
   hypothyroidism
   24 Hour Events:
 ENDOSCOPY - At [**2174-9-8**] 04:00 PM yesterday--found deep ulcer in
   stomach with concern for perf, kub without free air, surgery c/s,
 MULTI LUMEN - START [**2174-9-8**] 11:00 PM
   placement confirmed via cxr, in svc
   endo consulted for sever hypothyroidism with IV levoxyl started
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2174-9-8**] 11:00 PM
   Metronidazole - [**2174-9-9**] 09:00 AM
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2174-9-9**] 12:54 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.1
C (97
   HR: 77 (58 - 85) bpm
   BP: 129/70(83) {104/26(45) - 152/87(96)} mmHg
   RR: 27 (18 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 79 kg (admission): 78.3 kg
   Height: 66 Inch
   Bladder pressure: 10 (10 - 10) mmHg
   Total In:
                                                                  1,735 mL
                                                                  1,575 mL
   PO:
   TF:
   IVF:
                                                                    760 mL
                                                                  1,575 mL
   Blood products:
                                                                    975 mL
   Total out:
                                                                  1,425 mL
                                                                    952 mL
   Urine:
                                                                  1,425 mL
                                                                    952 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    310 mL
                                                                    623 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///21/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): appropriate per family (interpreting),
   Movement: Not assessed, No(t) Sedated, Tone: Not assessed
   Labs / Radiology
   9.3 g/dL
   245 K/uL
   105 mg/dL
   4.9 mg/dL
   21 mEq/L
   4.0 mEq/L
   134 mg/dL
   104 mEq/L
   140 mEq/L
   28.2 %
   5.5 K/uL
        [image002.jpg]
                             [**2174-9-7**]  10:20 PM
                             [**2174-9-8**]  03:00 AM
                             [**2174-9-8**]  10:04 AM
                             [**2174-9-8**]  01:06 PM
                             [**2174-9-8**]  10:03 PM
                             [**2174-9-9**]  04:25 AM
   WBC
   9.2
   10.3
   5.5
   Hct
   21.5
   24.6
   27.8
   27.4
   29.1
   28.2
   Plt
   287
   289
   245
   Cr
   4.8
   4.9
   TropT
   0.38
   0.35
   0.39
   Glucose
   124
   105
   Other labs: CK / CKMB / Troponin-T:2128/29/0.39, Lactic Acid:0.7
   mmol/L, Ca++:6.4 mg/dL, Mg++:1.9 mg/dL, PO4:6.6 mg/dL
   Fluid analysis / Other labs: ck 2128 (down from 2400)
   Imaging: egd report reviewed
   kub no free air
   cxr--lm effusion small, small volumes, full hilar vessesl
   Assessment and Plan
   85M HTN, HL, CHF, CRI, COPD, and Fe deficiency anemia, admitted with
   GIB, acute on CRI, found also to have elevated CPKS and severe
   hypothyroidism
   # GIB
Appears chronic given hemodynamic tolerance. Concern for
   PUD/gastritis given NSAIDS with deep ulceration seen on egd.  concern
   for perf initiailly, though w/o free air on kub and stable benign abd
   exam.  Given stable wbc ct and abd exam will d/c antibx.  Hct remains
   stable, will follow QD and keep t and c.  continue PPI, Large bore
   access. Hold asa.  Continue to follow serial exmas, d/w GI additonal
   plans for relook or colon.  Ct reread notes deep ulcer and is at risk
   for perf.  Low threshold for repeat KUB.  Would check h pylori.
   # Hypothyroidism
severe, on  IV levothyroxine. Endo consult
   appreciated.
   # Elevated trop/ecg changes
trop trending down.  Possible demand
   ischemia in setting of anemia, though more likely related to renal
   failure and myositis (cks) in setting of hypothyroidism. Cont low dose
   BB.  cards rec appreciated, will f/u TTE.
   # Elevated cpk
rhabdo/myositis, likely from thyroid ds vs possibly
   statin-related. Trending down but very slowly.  continue hydration with
   lasix as needed given known d chf.
   # Acute on CRI
stage 4 CRI at baseline, quite uremic, though without
   rub on exam.  Likely prerenal component in setting of anemia, as well
   as [**2-7**] rhabdo, atn or NSAID induced. Feurea c/w prerenal state and we
   continue to hydrate (increase fluids, doing well from resp
   standpoint).  Continues to make adequate urine. Hold ACE-I, would check
   renal us, consult his home nephrologist and consult renal as likely
   heading toward HD though no acute indication at this time.
   # D chf
without evidence of volume overload by exam though cxr with
   full hilar vessels, oxygenating well.  Monitor resp status in setting
   of hydration.
   # AGMA
likely from uremia, check lactate level
   Remainder as per housestaff
   ICU Care
   Nutrition:
   Comments: npo pending additional gi eval
   Glycemic Control:  Blood sugar well controlled
   Lines:
   18 Gauge - [**2174-9-7**] 08:53 PM
   Multi Lumen - [**2174-9-8**] 11:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU for now, consider transfer to floor tomorrow if abd
   exam holds stable.
   Total time spent: 40 minutes